US09359362B2
(7R)-7-(4-Cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]-pyrimidine-6-carboxylic acid
The reaction was carried out under argon. Solid lithium hydroxide (15.8 mg, 660 μmol, 3 eq.) was added to a solution of ethyl (7R)-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]pyrimidine-6-carboxylate (100 mg, 220 μmol) in an ethanol/THF/water mixture (4:1:0.6, 5.6 ml). The solution was heated at 55° C. for 1.5 h. At 0° C., the mixture was then acidified with 1 N hydrochloric acid (0.66 ml) and then directly purified by preparative HPLC (Kromasil C18 column; mobile phase: acetonitrile/water+0.1% TFA 10:90→90:10). The product was obtained as a colorless amorphous solid (67 mg, 71% of theory).

reactant | lithium hydroxide | 660 μmol, 15.8 mg, 3 eq. | [OH-].[Li+]
reactant | ethyl (7R)-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]pyrimidine-6-carboxylate | 220 μmol, 100 mg | C(#N)C1=CC=C(C=C1)[C@@H]1C(=C(N(C=2N1N=NN2)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)OCC | C22H17F3N6O2
reactant | hydrochloric acid | 1 N, 0.66 ml | Cl | ClH
solvent | ethanol THF water | 5.6 ml | C(C)O.C1CCOC1.O
product | (7R)-7-(4-Cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]-pyrimidine-6-carboxylic acid | C(#N)C1=CC=C(C=C1)[C@@H]1C(=C(N(C=2N1N=NN2)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)O | C20H13F3N6O2
